US07868030B2
i) 4-Bromo-N-tert-butyl-3-methyl-benzenesulfonamide
To a stirred, ice-cold solution of 4-bromo-3-methyl-benzenesulfonyl chloride (11 g, 40.8 mmol) and N′N-diisopropylethylamine (8.5 ml, 49 mmol, 1.2 equiv.) in dichloromethane was added dropwise tert. butylamine (5.2 ml, 49 mmol, 1.2 equiv.). After two hours at room temp., the reaction mixture was diluted with water and extracted with dichloromethane. The organic extracts were concentrated under reduced pressure, the residue stirred with n-heptane and filtered to obtain 11.2 g of the desired compound as a yellow solid. MS (ES): m/e 304.2 (M−H)

reactant | 4-bromo-3-methyl-benzenesulfonyl chloride | 40.8 mmol, 11 g | BrC1=C(C=C(C=C1)S(=O)(=O)Cl)C | C7H6BrClO2S
reactant | tert. butylamine | 49 mmol, 5.2 ml, 1.2 equiv. | C(C)(C)(C)N | C4H11N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-Bromo-N-tert-butyl-3-methyl-benzenesulfonamide | 11.2 g | BrC1=C(C=C(C=C1)S(=O)(=O)NC(C)(C)C)C | C11H16BrNO2S
